US07696231B2
4-Amino-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-aminobenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 395 mg of the title compound (97%) as a yellow solid in 99.2% purity by HPLC (Rt: 4.41, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-aminobenzohydrazide | NC1=CC=C(C(=O)NN)C=C1 | C7H9N3O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Amino-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)benzohydrazide | 395 mg, 97% | NC1=CC=C(C(=O)NN=C2C(NC3=CC=C(C=C23)I)=O)C=C1 | C15H11IN4O2
